US06248739B1
To a solution of triphenylphosphine (15.34 g) in Et2O (150 mL) is added 4-nitrobenzylbromide (12.96 g). The solution is allowed to stir overnight and the resulting solid is filtered and dried to yield 10.95 g of (4-nitrobenzyl)(triphenyl)phosphonium bromide as a white solid.

reactant | triphenylphosphine | 15.34 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-nitrobenzylbromide | 12.96 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
solvent | Et2O | 150 mL | CCOCC | C4H10O
product | (4-nitrobenzyl)(triphenyl)phosphonium bromide | 10.95 g | [Br-].[N+](=O)([O-])C1=CC=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | InChI=1S/C25H21NO2P.BrH/c27-26(28)22-18-16-21(17-19-22)20-29(23-10-4-1-5-11-23,24-12-6-2-7-13-24)25-14-8-3-9-15-25;/h1-19H,20H2;1H/q+1;/p-1
